US09427475B2
Step D: 2-aminoethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside
To a solution of benzyl {2-[(2,3,4-tri-O-acetyl-α-L-fucopyranosyl)oxy]ethyl}carbamate (1.0 g, 2.139 mmol) in water (10 mL) was added Pd/C (68 mg, 0.642 mmol). The resulting suspension was degassed and stirred under a balloon of H2 at rt. After 1 hr, the reaction mixture was filtered through a Celite pad and the filtrate was lyophilized to yield the title compound. UPLC Method B: m/e=334.1563 [M+1]; Rt=1.43 min.

reactant | benzyl {2-[(2,3,4-tri-O-acetyl-α-L-fucopyranosyl)oxy]ethyl}carbamate | 2.139 mmol, 1.0 g | C(C)(=O)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C)OCCNC(OCC1=CC=CC=C1)=O | C22H29NO10
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 0.642 mmol, 68 mg | [Pd] | Pd
product | 2-aminoethyl 2,3,4-tri-O-acetyl-α-L-fucopyranoside | C(C)(=O)O[C@@H]1[C@H](OCCN)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C14H23NO8
